US06756386B1
1-Tertbutoxycarbonyl-azetidin-3-ol
A mixture of azetidin-3-ol (7.0 g, 96 mmol) (S. S. Chattatarjee and D. J. Triggle Chem Commun. 93, (1968)), triethyiamine (10.7 g, 106 mmol) and di-tert-butyl dicarbonat (21,0 g, 96 mmol) in dichloromethane (150 ml) was stirred for 15 h. The crude mixture was evaporated and chromatographed on silica gel with dichloromethane and ethanol (4%). The title compound was obtained. Yield 12.9 g, 78%.

reactant | azetidin-3-ol | 96 mmol, 7.0 g | N1CC(C1)O | C3H7NO
reactant | triethyiamine | 106 mmol, 10.7 g | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonat | 96 mmol, 21,0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 1-Tertbutoxycarbonyl-azetidin-3-ol | C(C)(C)(C)OC(=O)N1CC(C1)O | C8H15NO3
